US07662825B2
N-(5-Bromo-3-methoxy-2-pyrazinyl)-2,5-dichlorobenzenesulphonamide
Prepared by the method of Example 1 (reaction performed at room temperature) using 5-bromo-3-methoxy-2-pyrazinamine (0.2 g) and 2,5-dichlorobenzenesulphonyl chloride (0.24 g). Yield 0.14 g.

reactant | 5-bromo-3-methoxy-2-pyrazinamine | 0.2 g | BrC=1N=C(C(=NC1)N)OC | C5H6BrN3O
reactant | 2,5-dichlorobenzenesulphonyl chloride | 0.24 g | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | N-(5-Bromo-3-methoxy-2-pyrazinyl)-2,5-dichlorobenzenesulphonamide | BrC=1N=C(C(=NC1)NS(=O)(=O)C1=C(C=CC(=C1)Cl)Cl)OC | C11H8BrCl2N3O3S
